datasets/RMG-dataset.csv
rxn,Ea
[C:0](=[C:1][C:2](=[S:3])[H:6])([H:4])[H:5].[C:7]([C:8]([c:9]1[c:10]([H:20])[c:11]([H:21])[c:12]([H:22])[c:13]([H:23])[c:14]1[H:24])([H:18])[H:19])([H:15])([H:16])[H:17]>>[C:0](=[C:1]([C:2](=[S:3])[H:6])[H:18])([H:4])[H:5].[C:7]([C:8]([c:9]1[c:10]([H:20])[c:11]([H:21])[c:12]([H:22])[c:13]([H:23])[c:14]1[H:24])[H:19])([H:15])([H:16])[H:17],64.852
[N:0]([O:1][H:4])([H:2])[H:3].[N:5]([H:6])[H:7]>>[H:2][N:5]([H:6])[H:7].[N:0]([O:1][H:4])[H:3],13.5143
[C:0](#[C:1][C:2]([C:3](=[C:4]([H:10])[H:11])[H:9])=[C:5]([C:6]([H:12])([H:13])[H:14])[C:7]([H:15])([H:16])[H:17])[H:8].[H:18]>>[C:0](#[C:1][C:2]([C:3](=[C:4]([H:10])[H:11])[H:9])[C:5]([C:6]([H:12])([H:13])[H:14])([C:7]([H:15])([H:16])[H:17])[H:18])[H:8],1.54808
[C:0]([C:1]([C:2]([O:3][O:4])([H:13])[H:14])([C:5]([C:6]([H:16])([H:17])[H:18])([O:7][O:8][H:19])[H:15])[H:12])([H:9])([H:10])[H:11]>>[C:0]([C:1](=[C:2]([H:13])[H:14])[C:5]([C:6]([H:16])([H:17])[H:18])([O:7][O:8][H:19])[H:15])([H:9])([H:10])[H:11].[O:3][O:4][H:12],120.9176
[H:1].[c:2]1([H:4])[c:5]([H:6])[c:7]([H:8])[c:9]([H:10])[c:11]2[c:13]([H:14])[c:15]([H:16])[c:17]([H:18])[c:19]([H:20])[c:21]12>>[H:1][C:9]1([H:10])[C:7]([H:8])=[C:5]([H:6])[C:2]([H:4])[c:21]2[c:11]1[c:13]([H:14])[c:15]([H:16])[c:17]([H:18])[c:19]2[H:20],18.903312
[C:0](=[C:1][C:2]([H:5])([H:6])[H:7])([H:3])[H:4].[C:8]([C:9]([C:10]([H:17])([H:18])[H:19])([C:11]([O:12][H:22])([H:20])[H:21])[H:16])([H:13])([H:14])[H:15]>>[C:0](=[C:1]([C:2]([H:5])([H:6])[H:7])[H:13])([H:3])[H:4].[C:8]([C:9]([C:10]([H:17])([H:18])[H:19])([C:11]([O:12][H:22])([H:20])[H:21])[H:16])([H:14])[H:15],14.644
[C:0](=[C:1]([C:2]([C:3](=[O:4])[H:10])([H:8])[H:9])[H:7])([H:5])[H:6].[O:11]>>[C:0](=[C:1]([C:2]([C:3]=[O:4])([H:8])[H:9])[H:7])([H:5])[H:6].[H:10][O:11],5.811576
[C:0]([C:1]([C:2]([H:12])([H:13])[H:14])[C:3]([C:4]([O:5][O:6][H:18])([H:16])[H:17])([O:7][O:8][H:19])[H:15])([H:9])([H:10])[H:11]>>[C:0]([C:1]1([C:2]([H:12])([H:13])[H:14])[C:3]([C:4]([O:5][O:6][H:18])([H:16])[H:17])([H:15])[O:7]1)([H:9])([H:10])[H:11].[O:8][H:19],37.2376
[C:0](=[C:1]=[C:2]([C:3](=[C:4]([H:10])[H:11])[H:9])[C:5](=[C:6]([H:13])[H:14])[H:12])([H:7])[H:8].[C:15](=[C:16]([H:18])[H:19])[H:17]>>[C:0](=[C:1][C:2]([C:3](=[C:4]([H:10])[H:11])[H:9])([C:5](=[C:6]([H:13])[H:14])[H:12])[C:15](=[C:16]([H:18])[H:19])[H:17])([H:7])[H:8],20.5853
[C:0]([C:1]([C:2]([H:9])([H:10])[H:11])([C:3](=[S:4])[H:12])[H:8])([H:5])([H:6])[H:7].[C:13]([C:14]([C:15]([H:20])([H:21])[H:22])[S:16][H:23])([H:17])([H:18])[H:19]>>[C:0]([C:1]([C:2]([H:9])([H:10])[H:11])[C:3](=[S:4])[H:12])([H:5])([H:6])[H:7].[H:8][C:14]([C:13]([H:17])([H:18])[H:19])([C:15]([H:20])([H:21])[H:22])[S:16][H:23],-15.4808
[C:0](=[C:1]([C:2]([S:3][H:8])[H:7])[H:6])([H:4])[H:5].[c:9]1([H:15])[c:10]([H:16])[c:11]([H:17])[c:12]([H:18])[c:13]([H:19])[c:14]1[H:20]>>[C:0](=[C:1]([C:2]([S:3][H:8])([H:7])[H:15])[H:6])([H:4])[H:5].[c:9]1[c:10]([H:16])[c:11]([H:17])[c:12]([H:18])[c:13]([H:19])[c:14]1[H:20],144.097
[C:0]([C:1]([S:2][H:7])[H:6])([H:3])([H:4])[H:5].[S:8]=[C:9]([S:10][H:12])[H:11]>>[C:0]([C:1]([S:2][H:7])([H:6])[H:11])([H:3])([H:4])[H:5].[S:8]=[C:9][S:10][H:12],104.098
[C:0](=[C:1]([C:2]([H:6])([H:7])[H:8])[H:5])([H:3])[H:4].[C:9]([H:10])[H:11]>>[C:0](=[C:1]([C:2]([H:6])([H:7])[H:8])[C:9]([H:5])([H:10])[H:11])([H:3])[H:4],-2.870224
[N:0](=[C:1]=[O:2])[H:3].[N:4][H:5]>>[H:3][N:4][H:5].[N:0]=[C:1]=[O:2],99.82
[C:0](#[C:1][C:2](=[C:3]([C:4]([H:8])([H:9])[H:10])[H:7])[H:6])[H:5].[C:11]([C:12]([c:13]1[c:14]([H:23])[c:15]([H:24])[c:16]([H:25])[c:17]([H:26])[c:18]1[H:27])[H:22])([H:19])([H:20])[H:21]>>[C:0](#[C:1][C:2]([C:3]([C:4]([H:8])([H:9])[H:10])([H:7])[C:12]([C:11]([H:19])([H:20])[H:21])([c:13]1[c:14]([H:23])[c:15]([H:24])[c:16]([H:25])[c:17]([H:26])[c:18]1[H:27])[H:22])[H:6])[H:5],29.7901
[N:0]([H:1])[H:2].[N:3]([N:4]([H:6])[H:7])[H:5]>>[N:0]([H:1])([H:2])[H:6].[N:3](=[N:4][H:7])[H:5],-4.8116
[C:0](=[C:1]([S:2][H:6])[H:5])([H:3])[H:4].[C:7]([S:8][H:11])([H:9])[H:10]>>[C:0](=[C:1][S:2][H:6])([H:3])[H:4].[H:5][C:7]([S:8][H:11])([H:9])[H:10],78.1153
[C:0](#[C:1][C:2]([C:3]([H:8])([H:9])[H:10])=[C:4]([C:5](=[C:6]([H:13])[H:14])[H:12])[H:11])[H:7].[C:15](#[C:16][C:17]([H:19])[H:20])[H:18]>>[C:0](#[C:1][C:2]([C:3]([H:8])([H:9])[H:10])([C:4]([C:5](=[C:6]([H:13])[H:14])[H:12])[H:11])[C:17]([C:16]#[C:15][H:18])([H:19])[H:20])[H:7],35.6477
[C:0]([C:1]([C:2]([H:9])([H:10])[H:11])([C:3]([H:12])([H:13])[H:14])[C:4]([C:5](=[C:6]([H:18])[H:19])[H:17])([H:15])[H:16])([H:7])[H:8]>>[C:0]1([H:7])([H:8])[C:1]([C:2]([H:9])([H:10])[H:11])([C:3]([H:12])([H:13])[H:14])[C:4]([H:15])([H:16])[C:5]([H:17])[C:6]1([H:18])[H:19],52.7184
[C:0](=[C:1]([C:2]([H:10])([H:11])[H:12])[C:3]([C:4]([C:5](=[C:6]([H:17])[H:18])[C:7]([H:19])([H:20])[H:21])([H:15])[H:16])([H:13])[H:14])([H:8])[H:9].[O:22][O:23]>>[C:0](=[C:1]([C:2]([H:11])[H:12])[C:3]([C:4]([C:5](=[C:6]([H:17])[H:18])[C:7]([H:19])([H:20])[H:21])([H:15])[H:16])([H:13])[H:14])([H:8])[H:9].[H:10][O:22][O:23],171.288776
